US06057336
The p-hydroxy phenyl glycine (74.0 g, 442 mmol) was suspended in methanol (500 mL), cooled in an ice bath and HCl (gas) was bubbled through the reaction mixture for 20 minutes, to give a clear solution. The reaction was stirred at rt for 48 h, concentrated in vacuo to give an oil which was triturated with ethyl ether to give the p-hydroxy phenyl glycine methyl ester (95.8 g, 99%) as a white powder. MS found: (M+H)+ =182.

reactant | p-hydroxy phenyl glycine | 442 mmol, 74.0 g | OC1=CC=C(C=C1)NCC(=O)O | C8H9NO3
reactant | methanol | 500 mL | CO | CH4O
product | p-hydroxy phenyl glycine methyl ester | 95.8 g, 99% | COC(CNC1=CC=C(C=C1)O)=O | C9H11NO3
